US04889855
To a solution of 18,1 g (80 mmol) stannous chloride dihydrate in 100 ml concentrated hydrochloric acid was added 10,0 g (27,7 mmol) 1-amino-2-(4-chlorophenylazo)-naphthalene-5-sulphonamide. The mixture was stirred at 70° C. for 3 h. After cooling to 25° C., the mixture was poured into 200 ml ice-water. The precipitate was filtered off and washed with 4N hydrochloric acid. The crude product was stirred with ice-water. The precipitate was filtered off and washed with ice-water and ethanol to give 6,7 g 1,2-diamino-naphthalene-5-sulphonamide as a hydrochloride salt.

reactant | 1-amino-2-(4-chlorophenylazo)-naphthalene-5-sulphonamide | 27,7 mmol, 10,0 g | NC1=C(C=CC=2C(=CC=CC12)S(=O)(=O)N)N=NC1=CC=C(C=C1)Cl | C16H13ClN4O2S
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 1,2-diamino-naphthalene-5-sulphonamide | 6,7 g | NC1=C(C=CC=2C(=CC=CC12)S(=O)(=O)N)N | C10H11N3O2S
